US05356749
Synthesis of N,N'-bis-(2,6-diisopropylphenyl)-N"-(4-chloromethylphenyl) methylguanidine (Compound Example 7)
11.4 g (0.03 mole) of N,N'-bis-(2,6-diisopropylphenyl) guanidine, 5.7 g (0.033 mole) of α,α-dichloro-p-xylene and 2.1 g (0.015 mole) of anhydrous potassium carbonate were added to 50 ml of xylene. The thus-formed mixture was then refluxed under heating for 10 hours. After the mixture had been allowed to cool, the insoluble substance was removed by filtration. The thus-obtained filtrate was washed with water and then concentrated for the purpose of recovering the solvent and unreacted raw materials to obtain a slightly yellow crystal. The crystal was then recrystallized from benzene to obtain 6.3 g of white powder.

reactant | N,N'-bis-(2,6-diisopropylphenyl) guanidine | 0.03 mole, 11.4 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=N)NC1=C(C=CC=C1C(C)C)C(C)C | C25H37N3
reactant | α,α-dichloro-p-xylene | 0.033 mole, 5.7 g | ClC(C1=CC=C(C=C1)C)Cl | C8H8Cl2
reactant | potassium carbonate | 0.015 mole, 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N,N'-bis-(2,6-diisopropylphenyl)-N"-(4-chloromethylphenyl) methylguanidine | 6.3 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=NCC1=CC=C(C=C1)CCl)NC1=C(C=CC=C1C(C)C)C(C)C | C33H44ClN3
